Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Compazine
 
Attending: ___
 
Chief Complaint:
Slurred speech, R arm ataxia
 
Major Surgical or Invasive Procedure:
IV tPA
 
History of Present Illness:
The patient is a ___ year old ambidextrous F PMHx cigarette
smoking (quit 15 days ago, >30 pack yr history), untreated HTN,
chronic vertigo and recent episode of R arm weakness (~2 weeks
ago, MRI negative, see details below) who presents with 
transient
RUE ataxia and dysarthria.

On the day of presentation, pt awoke around 6a feeling like her
usual self. She made her bed uneventfully. As she was getting
ready to shower around 6a, she suddenly felt dizzy. This was
described as a constant room spinning sensation exacerbated by
head movement. This felt similar to her prior episodes of 
vertigo
(she has had chronic vertigo for ___ years) but different in that
she felt "off". She had to sit down on the bed and called for 
her
son. Her right arm then started trembling and shaking. The son
observed this and she maintained awareness. This lasted about 15
seconds and had never happened before. EMS was then called.

En route to the hospital, her speech became slurred. She felt is
was "hard to make a sentence" and "get my words out". She had to
speak slowly and reported having some word finding difficulty as
well. She understood what was going on around her. 

Pt arrived at ___ at 6:45a. VS: ___ F (36.1 C), 68, 18,
130/70, O2 sat 100%. NIHSS 2 for R arm drift and R FNF 
dysmetria.
NCHCT unremarkable. Tele-stroke consulted who recommended tPA,
which was given at 9:05a. Pt then transferred to ___ for
further management.

En route to ___, she became nauseous and vomited x1. She was
given an anti-emetic. She also developed a holocephalic 
pulsating
headache. She denied any photo- or phonophobic but does have a
history of migraines with similar characteristics (none
recently). 

At the time of my assessment, her speech difficulties and R arm
ataxia +/- weakness had improved. She continued to have a
headache but the nausea had resolved. Repeat ___ and CTA H/N
were unremarkable. 

Of note, on ___ she developed a dental abscess on the left
side. On ___, she had a fever (101.5 per pt) and she called 
her
dentist who prescribed Keflex. She is currently completing this
course.

Also, she was hospitalized at ___ from ___ with 
a
similar event. Pt reports having sudden onset of a "dead right
arm" while she was reaching for a door. These symptoms resolved
after ~1hr. She also felt that the R side of her face was
drooping during this episode. She was admitted to ___
where she had an unremarkable MRI head and normal TSH/cortisol.
She was diagnosed with possible carpal tunnel syndrome with a
"low index of suspicion for TIA. No further workup indicated 
from
a neurologic standpoint. Recommended a splint for the right 
arm."

 
Past Medical History:
Asthma
Anxiety
Endometriosis
Vertigo
Kidney stones s/p lithrotripsy
C-section x 2
Hysterectomy
Appendectomy
Polyp vocal cord  
Viral meningitis (following delivery of her twins)          

 
Social History:
___
Family History:
Diabetes mellitus.
Grandmother had a stroke.
No family history of seizures.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. ?subtle overshoot with tracking but appears
bilateral. Good speed and intact cadence with rapid alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg

DISCHARGE:
Nonfocal
 
Pertinent Results:
___ 05:45AM BLOOD WBC-5.2 RBC-3.77* Hgb-11.8 Hct-35.3 
MCV-94 MCH-31.3 MCHC-33.4 RDW-12.5 RDWSD-43.6 Plt ___
___ 11:13AM BLOOD WBC-8.4 RBC-3.97 Hgb-12.8 Hct-36.8 MCV-93 
MCH-32.2* MCHC-34.8 RDW-12.5 RDWSD-43.2 Plt ___
___ 05:45AM BLOOD ___ PTT-28.6 ___
___ 11:13AM BLOOD ___ PTT-25.2 ___
___ 05:45AM BLOOD Lupus-NEG
___ 05:45AM BLOOD Glucose-111* UreaN-20 Creat-0.5 Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 06:40AM BLOOD Glucose-107* UreaN-13 Creat-0.5 Na-139 
K-3.9 Cl-103 HCO3-24 AnGap-16
___ 07:16PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 11:46AM BLOOD Glucose-112* Na-140 K-3.9 Cl-106 
calHCO3-20*

___ H&N
1. The subsequently discovered small right cerebellar infarct is 
not 
visualized on this study. 
2. Carotid and vertebral arteries and the vessels of the circle 
___ are 
patent. 
3. No evidence of internal carotid stenosis by NASCET criteria. 
4. Several sub 4 mm pulmonary nodules are seen in the lung 
apices. 
The ___ pulmonary nodule recommendations are 
intended as 
guidelines for follow-up and management of newly incidentally 
detected 
pulmonary nodules smaller than 8 mm, in patients ___ years of age 
or older. Low 
risk patients have minimal or absent history of smoking or other 
known risk 
factors for primary lung neoplasm. High risk patients have a 
history of 
smoking or other known risk factors for primary lung neoplasm. 

___ Head w/o
There is small acute right cerebellar infarct.

___
Evolving anterolateral right cerebellar infarct with no evidence 
of 
hemorrhagic conversion. 

 
Brief Hospital Course:
___ is a ___ year old ambidextrous woman with a history 
of smoking (quit 2 weeks ago, >30 pack yr history), possible 
HTN, chronic vertigo and a recent episode of R arm weakness (~2 
weeks ago, MRI negative) who presented with transient right 
sided and dysarthria. She received IV tPA on ___ and her 
symptoms resolved. Neurologic exam is now improved. Brain MRI 
shows an infarct in right cerebellum and no complications from 
tPA. Etiology of her stroke is unknown. Her echo was negative 
for a PFO. No atrial fibrillation has been detected. She may 
have a family history of hypercoagulability (mother is on 
___ for "thick blood" and has had miscarriages). 
Antiphospholipid antibody tests were sent and pending at the 
time of discharge. She will also need further cardiac monitoring 
with ___ of Hearts monitor.

TRANSITIONAL ISSUES:
- follow up antiphospholipid antibodies
- should have further cardiac monitoring outpatient with ___ of 
hearts
- recommend genetic hypercoagulability testing outpatient 
(Factor V Leiden and Prothrombin Gene Mutation)
- incidental pulmonary nodule was found on imaging: In the case 
of nodule size <= 4 mm: For high risk patients, recommend 
follow-up at 12 months and if no change, no further imaging 
needed. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented? (X) Yes (LDL =136 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (X) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No  
9. Discharged on statin therapy? (X) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q8H 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Cephalexin 500 mg PO Q8H  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute ischemic stroke in the right cerebellum
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of right arm clumsiness 
and slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. You received tPA which is a 
clot busting medication which helped improve blood flow to the 
brain and resolve neurologic symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Possible Hypertension  
Possible family history of clotting disorder
Elevated cholesterol 
Smoking History

We are changing your medications as follows:  
- starting aspirin 81mg daily
- starting Atorvastatin 40 mg daily
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician. 
For Event Monitor ___) scheduling, call ___. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___